US07494992B2
Preparation 51: tert-butyl 3-[(2-pyridinylsulfanyl)methyl]-1-piperidinecarboxylate
To a stirred solution of tert-butyl 3-(hydroxymethyl)-1-piperidinecarboxylate (Preparation 52, 1.0 g, 5 mmol) in benzene (40 ml) under nitrogen was added triphenyl phosphine (1.44 g, 5.5 mmol). Diethyl azodicarboxylate (0.86 ml, 5.5, mmol) in benzene (4 ml) was added dropwise and the reaction mixture was stirred for 5 min. 2-mercapto pyridine (0.61 g, 5.5 mmol) was added and the reaction mixture was stirred at room temperature for 2 h. The reaction mixture washed with sodium hydroxide (1M), water, and saturated brine. The organic extracts were dried (Na2SO4) and concentrated to an oil which was purified by flash chromatography on silica gel eluting with dichloromethane:ethyl acetate (9:1). The title compound was obtained as an oil (1.0 g, 65%).

reactant | tert-butyl 3-(hydroxymethyl)-1-piperidinecarboxylate | 5 mmol, 1.0 g | OCC1CN(CCC1)C(=O)OC(C)(C)C | C11H21NO3
reactant | triphenyl phosphine | 5.5 mmol, 1.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl azodicarboxylate | 0.86 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-mercapto pyridine | 5.5 mmol, 0.61 g | SC1=NC=CC=C1 | C5H5NS
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
product | tert-butyl 3-[(2-pyridinylsulfanyl)methyl]-1-piperidinecarboxylate | N1=C(C=CC=C1)SCC1CN(CCC1)C(=O)OC(C)(C)C | C16H24N2O2S
